US07335665B2
N-(3-BROMOPROPYL)-2,2-DIPHENYLACETAMIDE.
A mixture of 2,2-diphenylacetic chloride (6.00 g, 26.0 mmol), 3-bromo-1-aminopropane hydrobromide (5.69 g, 26.0 mmol) and triethylamine (10.9 mL, 78.0 mmol) in dichloromethane (100 mL) was stirred at 25° C. for 24 hours. Water (100 mL) was added into the reaction mixture and the aqueous layer was extracted with dichloromethane (3×100 mL). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated under reduced pressure. The crude product was chromatographed (Hexanes:EtOAc 2:1) to afford the desired product (6.67 g, 77.5%). 1H NMR (400 MHz, CDCl3) δ δ 7.30-7.17 (m, 10H), 6.64-6.55 (m, 1H), 4.86 (s, 1H), 3.29-3.19 (m, 4H), 1.95-1.85 (m, 2H); ESMS m/e: 332.21 (M+H)+.

reactant | 2,2-diphenylacetic chloride | 26.0 mmol, 6.00 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 3-bromo-1-aminopropane hydrobromide | 26.0 mmol, 5.69 g | Br.BrCCCN
reactant | triethylamine | 78.0 mmol, 10.9 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(3-BROMOPROPYL)-2,2-DIPHENYLACETAMIDE | 6.67 g, 77.5% | BrCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H18BrNO
